US07598397B2
2-Bromo nitrobenzene was reacted with allyl magnesium bromide according to the literature procedure (Dobbs A. J. Org Chem. 2001, 66, 638-641), to provide 7-bromo-3-methyl-1H-indole.

reactant | 2-Bromo nitrobenzene | BrC1=C(C=CC=C1)[N+](=O)[O-] | C6H4BrNO2
reactant | allyl magnesium bromide | C(C=C)[Mg]Br
product | 7-bromo-3-methyl-1H-indole | BrC=1C=CC=C2C(=CNC12)C | C9H8BrN
